US04107184
PREPARATION OF CYCLOHEXYL(2-METHYL-3-FURYL)-DISULFIDE
0.57 Grams (0.0050 moles) of 2-methyl-3-furanthiol and 1.16 grams (0.01 moles) of cyclohexylmercaptan are dissolved in 12 ml of diethyl ether. 0.8 Grams (0.0075 moles) of sodium carbonate dissolved in 8 ml water is added to the reaction mass. Over a period of 10 minutes, a solution of 1.9 grams (0.0075 moles) of iodine dissolved in 6 ml diethyl ether is added to the reaction mass with stirring until the iodine color remains. The reaction mass is then stirred over a period of 45 minutes.

reactant | 2-methyl-3-furanthiol | 0.0050 moles | CC=1OC=CC1S | C5H6OS
reactant | cyclohexylmercaptan | 0.01 moles, 1.16 grams | C1(CCCCC1)S | C6H12S
reactant | sodium carbonate | 0.0075 moles | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodine | 0.0075 moles, 1.9 grams | II | I2
solvent | diethyl ether | 12 ml | C(C)OCC | C4H10O
solvent | water | 8 ml | O | H2O
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
product | CYCLOHEXYL(2-METHYL-3-FURYL)-DISULFIDE | C1(CCCCC1)SSC1=C(OC=C1)C | C11H16OS2
